US05153352
Step D: 2-(2-(((1,1-Dimethylethyl)dimethylsilyl)oxy)ethyl)-3-(((1,1-dimethylethyl)dimethylsilyl)oxymethyl)-1-azidocyclobutane
2-(2-(((1,1-Dimethylethyl)dimethylsilyl)oxy)ethyl)-3-(((1,1-dimethylethyl)dimethyl-silyl)oxymethyl)-1-O-methanesulfonylcyclobutanol (180 mg, 0.41 mmol) was mixed with 200 mg (4.1 mmol) of lithium azide in 4 mL of DMF. The reaction mixture was heated at 80° C. for 2 h then concentrated in vacuo. The residue was purified on a silica gel column eluted with 5% ethyl acetate in hexane to give 120 mg (73% yield) of the title compound; MS DCI-NH3M/Z: 400 (M+H)+, 417 (M+NH4)+.

reactant | 2-(2-(((1,1-Dimethylethyl)dimethylsilyl)oxy)ethyl)-3-(((1,1-dimethylethyl)dimethyl-silyl)oxymethyl)-1-O-methanesulfonylcyclobutanol | 0.41 mmol, 180 mg | CC(C)(C)[Si](OCCC1C(CC1CO[Si](C)(C)C(C)(C)C)OS(=O)(=O)C)(C)C | C20H44O5SSi2
reactant | lithium azide | 4.1 mmol, 200 mg | [N-]=[N+]=[N-].[Li+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-(2-(((1,1-Dimethylethyl)dimethylsilyl)oxy)ethyl)-3-(((1,1-dimethylethyl)dimethylsilyl)oxymethyl)-1-azidocyclobutane | 120 mg, 73% yield | CC(C)(C)[Si](OCCC1C(CC1CO[Si](C)(C)C(C)(C)C)N=[N+]=[N-])(C)C | C19H41N3O2Si2
